datasets/10k__Tet_Int.csv
SMILES Labelled
"[H][NH:10][H].[H][NH+:21]=[C:20]([O]C)[NH][H].[Cl-]>>[Cl-].[H][NH+:10]([H])[C:20]([NH:21][H])([O]C)[NH][H] 10=20;20,21=21"
"[H][O+:10]([H])[C:20]([O:21][H])([O]C)[S]CC.[Cl-]>>[Cl-].[H][O:10][H].[H][O+:21]=[C:20]([O]C)[S]CC 21=20;20,10=10"
"CCC1C(C(O[C:20](=[O:10])N1C)CCCCCC)CC.[O-:21][H]>>CCC1C(C(O[C:20](N1C)([O-:10])[O:21][H])CCCCCC)CC 21=20;20,10=10"
"C(C([O-:21])C1=CC=CC=C1)(C(O[C:20](=[O:10])OC)CCCCCC)C1=CC=CC=C1>>C1(C(O[C:20]([O-:10])([O:21]C1C1=CC=CC=C1)OC)CCCCCC)C1=CC=CC=C1 21=20;20,10=10"
"[H][NH+:21]=[C:20]2[O][CH]([H])[CH](C)C(CC)[O]2.CC[O:10][H].[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]1([NH:21][H])[O][CH]([H])C(C)[CH](CC)[O]1 10=20;20,21=21"
"[O-:21][C:20]1([H])C([H])C([H])C(C)C(CCC)[O+:10]1([K])>>[O:10]([K])C(CCC)C(C)C([H])C([H])[C:20]([H])=[O:21] 21=20;20,10=10"
"[H][O+:10](C([H])C([H])[O]1)[C:20]1([NH:21]C)[O]C.[Cl-]>>[Cl-].[H][O:10]C([H])C([H])[O][C:20]([O]C)=[NH+:21]C 21=20;20,10=10"
"[H][NH+:10](C(CC)C(C)C(C)[NH]1)[C:20]1([NH:21][H])[O]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][NH:10]C(CC)C(C)C(C)[NH][C:20]([O]C7=CC=CC=C7)=[NH+:21][H] 21=20;20,10=10"
"CCCCCCC1C(O[C:20](=[O:10])N1CCCCCC)C.[O-:21]CC>>CCCCCCC1C(O[C:20](N1CCCCCC)([O-:10])[O:21]CC)C 21=20;20,10=10"
"C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21]CC)[O][CH](C)C([H])[CH](C8=CC=CC=C8)[O]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[O][CH](C)[CH]([H])C(C8=CC=CC=C8)[O]2.C9=CC=CC=C9[NH:10][H] 21=20;20,10=10"
"C1=CC=CC=C1C1C(O[C:20](N1C1=CC=CC=C1)([O-:10])[Cl:21])[H]>>C1=CC=CC=C1C1C(O[C:20](=[O:10])N1C1=CC=CC=C1)[H].[Cl-:21] 10=20;20,21=21"
"CC[O+:10]([H])[C:20]1([O:21][H])[S]C(CC)C(CC)[O]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[S]C(CC)C(CC)[O]2.CC[O:10][H] 21=20;20,10=10"
"CC1C(C(O[C:20](=[O:10])N1CC)C1=CC=CC=C1)CCCCCC.[O-:21]C>>CC1C(C(O[C:20](N1CC)([O-:10])[O:21]C)C1=CC=CC=C1)CCCCCC 21=20;20,10=10"
"CN([C:20]([O-:10])([O:21]N1C(=O)CCC1=O)C)[H]>>CN([C:20](=[O:10])C)[H].C1CC(=O)N(C1=O)[O-:21] 10=20;20,21=21"
"[H][S+:10](C(C9=CC=CC=C9)C(C)C(CC)[S]1)[C:20]1([O:21]C)[S][H].[Cl-]>>[Cl-].[H][S:10]C(C9=CC=CC=C9)C(C)C(CC)[S][C:20]([S][H])=[O+:21]C 21=20;20,10=10"
"C1CC[N:10](C1)[CH:20]([I:21])C>>C1CC[N+:10](=[CH:20]C)C1.[I-:21] 10=20;20,21=21"
"CCCCCCN([C:20]1(OC(C(C([O:21]1)C1=CC=CC=C1)CCCCCC)C)[O-:10])CCCCCC>>CCCCCCN([C:20](=[O:10])OC(C(C([O-:21])C1=CC=CC=C1)CCCCCC)C)CCCCCC 10=20;20,21=21"
"CC[O+:10]([H])[C:20]([O:21]C)([O]C8=CC=CC=C8)[S][H].[Cl-]>>[Cl-].CC[O:10][H].C[O+:21]=[C:20]([O]C8=CC=CC=C8)[S][H] 21=20;20,10=10"
"CCCCCCN([C:20]1(OC(C(C([O:21]1)CC)CCCCCC)CCCCCC)[O-:10])C>>CCCCCCN([C:20](=[O:10])OC(C(C([O-:21])CC)CCCCCC)CCCCCC)C 10=20;20,21=21"
"[H][O+:10](C(CC)C([H])C(CC)[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[O]CC.[Cl-]>>[Cl-].[H][O:10]C(CC)C([H])C(CC)[NH][C:20]([O]CC)=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
"C9=CC=CC=C9[S+:10]([H])[C:20]([O:21][H])([O][H])[O]C7=CC=CC=C7.[Cl-]>>[Cl-].C9=CC=CC=C9[S:10][H].[H][O+:21]=[C:20]([O][H])[O]C7=CC=CC=C7 21=20;20,10=10"
"C1=CC=CC=C1N([C:20](=[O:10])OC(C(C([O-:21])C)CC)C1=CC=CC=C1)C>>C1=CC=CC=C1N([C:20]1(OC(C(C([O:21]1)C)CC)C1=CC=CC=C1)[O-:10])C 21=20;20,10=10"
"[OH:21][C:20]1(OC)C([H])=C(C)C(C)C(C)[OH+:10]1>>[OH:10]C(C)C(C)/C(C)=C([H])\[C:20](OC)=[OH+:21] 21=20;20,10=10"
"[H]N([C:20]1(OC(C(C([O:21]1)C)C)[H])[O-:10])[H]>>[H]N([C:20](=[O:10])OC(C(C([O-:21])C)C)[H])[H] 10=20;20,21=21"
"CCCCCCC1C(O[C:20](=[O:10])N1C)CCCCCC.[O-:21]CCCCCC>>CCCCCCC1C(O[C:20](N1C)([O-:10])[O:21]CCCCCC)CCCCCC 21=20;20,10=10"
"C1=CC=CC=C1C1C(O[C:20](=[O:10])N1[H])CCCCCC.[O-:21]CCCCCC>>C1=CC=CC=C1C1C(O[C:20](N1[H])([O-:10])[O:21]CCCCCC)CCCCCC 21=20;20,10=10"
"[H]N([C:20]1(OC(C(C([O:21]1)C)CCCCCC)CCCCCC)[O-:10])CCCCCC>>[H]N([C:20](=[O:10])OC(C(C([O-:21])C)CCCCCC)CCCCCC)CCCCCC 10=20;20,21=21"
"[H][NH+:10](C([H])C([H])C(CC)[O]1)[C:20]1([NH:21]CC)[O]CC.[Cl-]>>[Cl-].[H][NH:10]C([H])C([H])C(CC)[O][C:20]([O]CC)=[NH+:21]CC 21=20;20,10=10"
"CC[NH+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH](C)C([H])[O]2.[H][NH:10][H].[Cl-]>>[Cl-].[H][NH+:10]([H])[C:20]1([NH:21]CC)[O][CH](C7=CC=CC=C7)C(C)[CH]([H])[O]1 10=20;20,21=21"
"[H][O+:21]=[C:20]2[O][CH]([H])[CH]([H])C(CC)[S]2.C[O:10][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]1([O:21][H])[O][CH]([H])C([H])[CH](CC)[S]1 10=20;20,21=21"
"C1=CC=CC=C1N([C:20](=[O:10])OC(C([O-:21])CC)C)[H]>>C1=CC=CC=C1N([C:20]1(OC(C([O:21]1)CC)C)[O-:10])[H] 21=20;20,10=10"
"C[O:10][H].[Si](C)(C)(C)[O+:21]=[C:20]([S]C8=CC=CC=C8)[O][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]([O:21][Si](C)(C)(C))([S]C8=CC=CC=C8)[O][H] 10=20;20,21=21"
"CC[NH+:10]([H])[C:20]([NH:21]C6=CC=CC=C6)([O][H])[O]C7=CC=CC=C7.[Cl-]>>[Cl-].CC[NH:10][H].C6=CC=CC=C6[NH+:21]=[C:20]([O][H])[O]C7=CC=CC=C7 21=20;20,10=10"
"CC[NH+:10]([H])[C:20]1([NH:21]CC)[O][CH](C7=CC=CC=C7)C([H])[CH](CC)[NH]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH]([H])C(CC)[NH]2.CC[NH:10][H] 21=20;20,10=10"
"[H][O+:21]=[C:20]2[S][CH](C7=CC=CC=C7)[CH](C)C(C)[S]2.C9=CC=CC=C9[O:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]1([O:21][H])[S][CH](C7=CC=CC=C7)C(C)[CH](C)[S]1 10=20;20,21=21"
